*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-102
* Inductance = 1.005uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-470MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-102_freq port1 port2 PARAMS: Cpar=0.143pF Ind=1.005uH
X1 port1 port2 Model2A PARAMS:
+ R1=58
+ R2=1.2
+ C= {Cpar}
+ K1=0.000423
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-122
* Inductance = 1.22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-420MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-122_freq port1 port2 PARAMS: Cpar=0.148pF Ind=1.22uH
X1 port1 port2 Model2A PARAMS:
+ R1=63
+ R2=1.2
+ C= {Cpar}
+ K1=0.000528
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-152
* Inductance = 1.52uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-390MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-152_freq port1 port2 PARAMS: Cpar=0.135pF Ind=1.52uH
X1 port1 port2 Model2A PARAMS:
+ R1=72
+ R2=1.6
+ C= {Cpar}
+ K1=0.000576
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-182
* Inductance = 1.82uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-370MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-182_freq port1 port2 PARAMS: Cpar=0.127pF Ind=1.82uH
X1 port1 port2 Model2A PARAMS:
+ R1=72
+ R2=2
+ C= {Cpar}
+ K1=0.000621
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-222
* Inductance = 2.25uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-310MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-222_freq port1 port2 PARAMS: Cpar=0.15pF Ind=2.25uH
X1 port1 port2 Model2A PARAMS:
+ R1=80
+ R2=2.2
+ C= {Cpar}
+ K1=0.00086
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-310MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-272_freq port1 port2 PARAMS: Cpar=0.123pF Ind=2.7uH
X1 port1 port2 Model2A PARAMS:
+ R1=68
+ R2=3.2
+ C= {Cpar}
+ K1=0.00098
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-332
* Inductance = 3.33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-260MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-332_freq port1 port2 PARAMS: Cpar=0.12pF Ind=3.33uH
X1 port1 port2 Model2A PARAMS:
+ R1=81
+ R2=3.8
+ C= {Cpar}
+ K1=0.00112
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-392
* Inductance = 3.95uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-240MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-392_freq port1 port2 PARAMS: Cpar=0.118pF Ind=3.95uH
X1 port1 port2 Model2A PARAMS:
+ R1=121
+ R2=5
+ C= {Cpar}
+ K1=0.00112
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-392_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-472
* Inductance = 4.775uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-220MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-472_freq port1 port2 PARAMS: Cpar=0.122pF Ind=4.775uH
X1 port1 port2 Model2A PARAMS:
+ R1=85
+ R2=5.4
+ C= {Cpar}
+ K1=0.0018
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-562
* Inductance = 5.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-190MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-562_freq port1 port2 PARAMS: Cpar=0.165pF Ind=5.7uH
X1 port1 port2 Model2A PARAMS:
+ R1=198
+ R2=5.7
+ C= {Cpar}
+ K1=0.00201
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-562_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-170MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-682_freq port1 port2 PARAMS: Cpar=0.166pF Ind=6.8uH
X1 port1 port2 Model2A PARAMS:
+ R1=203
+ R2=6.6
+ C= {Cpar}
+ K1=0.00258
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-140MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-822_freq port1 port2 PARAMS: Cpar=0.202pF Ind=8.2uH
X1 port1 port2 Model2A PARAMS:
+ R1=212
+ R2=7
+ C= {Cpar}
+ K1=0.0033
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-130MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-103_freq port1 port2 PARAMS: Cpar=0.21pF Ind=10uH
X1 port1 port2 Model2A PARAMS:
+ R1=244
+ R2=7.7
+ C= {Cpar}
+ K1=0.00498
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-123
* Inductance = 12uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-110MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-123_freq port1 port2 PARAMS: Cpar=0.241pF Ind=12uH
X1 port1 port2 Model2A PARAMS:
+ R1=244
+ R2=8.7
+ C= {Cpar}
+ K1=0.00365
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-123_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-153_freq port1 port2 PARAMS: Cpar=0.312pF Ind=15uH
X1 port1 port2 Model2A PARAMS:
+ R1=288
+ R2=9.6
+ C= {Cpar}
+ K1=0.00491
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-183
* Inductance = 18uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-183_freq port1 port2 PARAMS: Cpar=0.37pF Ind=18uH
X1 port1 port2 Model2A PARAMS:
+ R1=286
+ R2=10.5
+ C= {Cpar}
+ K1=0.00721
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-183_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-223_freq port1 port2 PARAMS: Cpar=0.342pF Ind=22uH
X1 port1 port2 Model2A PARAMS:
+ R1=318
+ R2=11.5
+ C= {Cpar}
+ K1=0.0087
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-273
* Inductance = 26.89uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-273_freq port1 port2 PARAMS: Cpar=0.54pF Ind=26.89uH
X1 port1 port2 Model2A PARAMS:
+ R1=338
+ R2=12.5
+ C= {Cpar}
+ K1=0.0112
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-273_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1812CS-333
* Inductance = 32.75uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1812CS-333_freq port1 port2 PARAMS: Cpar=0.885pF Ind=32.75uH
X1 port1 port2 Model2A PARAMS:
+ R1=266
+ R2=13.5
+ C= {Cpar}
+ K1=0.0177
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=0
.ends 1812CS-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
